Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ year old male with no significant PMH who 
presents with abdominal pain. 

Patient reports that abdominal pain began this morning after 
eating a peanut butter sandwich. It was severe, located in 
middle of upper abdomen. Lasted from around 7am to 3pm. Crampy 
in nature, associated with back pain. No fevers or chills. 
Patient made himself vomit once to try to improve the pain, but 
this did not help. Otherwise no nausea, vomiting, or diarrhea. 
He presented to the ED for further workup

In the ___ ED, labs were significant for a white count of 
19.9, hemoglobin of 14.3, and platelets of 360. Electrolytes 
were significant for creatinine of 1.13 and a potassium of 3.3. 
LFTs were normal. His lactic acid was elevated at 2.3. Patient 
underwent a right upper quadrant ultrasound, which showed 
pericholecystic edema without evidence of acute cholecystitis. A 
CT abdomen pelvis with contrast showed nonspecific periportal 
and ___ with cystic edema could be related to sepsis, 
aggressive hydration, hepatitis, cholangitis, and acute 
pyelonephritis. No evidence of appendicitis. Patient was given 
cipro and metronidazole. GI and surgery were consulted, 
recommending a HIDA scan and possible MRCP. Given that this a 
HIDA scan was not available at the outside hospital, patient was 
transferred to the ___ emergency department for further 
workup.

In the ED:

Initial vital signs were notable for: T 98.4, HR 60, BP 108/70, 
RR 20, 100% RA 

Exam notable for: Abdomen: Soft, nontender, nondistended

Studies performed include: RUQUS showing mild gallbladder wall 
thickening and pericholecystic fluid

Vitals on transfer: T 97, HR 63, BP 111/55, RR 16, 99% RA 

Upon arrival to the floor, patient reports that he has no pain. 
He says that the morphine helped a little bit, but that the 
Toradol helped a lot. 

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative. 

 
Past Medical History:
no chronic medical issues, no hospitalizations, and no surgeries
 
Social History:
___
Family History:
mother - breast cancer
 
Physical Exam:
ADMISSION:
VITALS: T 98.7, HR 69, BP 122/74, RR 16, 97% RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE: 
VITALS: afebrile, vitals stable 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
LABS:
=====
___ 05:27AM BLOOD WBC-7.9 RBC-4.56* Hgb-13.5* Hct-41.4 
MCV-91 MCH-29.6 MCHC-32.6 RDW-12.6 RDWSD-42.2 Plt ___
___ 07:20PM BLOOD WBC-8.4 RBC-4.32* Hgb-13.1* Hct-39.5* 
MCV-91 MCH-30.3 MCHC-33.2 RDW-12.7 RDWSD-41.9 Plt ___
___ 05:27AM BLOOD Glucose-79 UreaN-12 Creat-1.1 Na-142 
K-4.8 Cl-103 HCO3-28 AnGap-11
___ 07:20PM BLOOD Glucose-92 UreaN-12 Creat-1.0 Na-141 
K-4.0 Cl-103 HCO3-25 AnGap-13
___ 05:27AM BLOOD ALT-92* AST-52* AlkPhos-59 TotBili-0.6
___ 07:20PM BLOOD ALT-116* AST-98* AlkPhos-59 TotBili-0.5

IMAGING:
========
___ CXR ___): 
-No evidence of acute cardiopulmonary process

___ RUQUS ___):
-Pericholecystic edema without evidence of acute cholecystitis.

___ CT a/p w/ contrast ___):
1.  Nonspecific periportal and pericholecystic edema could be
related to sepsis, aggressive hydration, hepatitis, cholangitis
and acute pyelonephritis.
2.  No evidence of appendicitis

___ RUQUS:
Mild gallbladder wall thickening and pericholecystic fluid. 
These
findings are nonspecific; the absence of stones and 
nondistention
of the gallbladder argue against acute cholecystitis. However, 
if
sufficient clinical concern, a HIDA scan may be considered for
further evaluation. 

 
Brief Hospital Course:
___ with no ___ transferred from ___ after 
presenting with several hours of severe abdominal pain. CT a/p 
demonstrating nonspecific periportal and pericholecystic edema 
that "could be related to sepsis, aggressive hydration, 
hepatitis, cholangitis and acute pyelonephritis." RUQUS without 
gallstones or evidence of CBD dilation. Transferred for 
consideration of HIDA and/or MRCP. However, symptoms completely 
resolved prior to arrival to ___ and labs with resolved 
leukocytosis and downtrending mild transaminitis. Thus, further 
imaging not indicated at this time. Upon further history, 
patient states that symptoms began approximately 20 hours after 
eating ___ meat that had been left out overnight, thus 
atypical symptoms of self-resolved gastroparesis is possible. 

TRANSITIONAL ISSUES: 
=================== 
[] Recommend repeat LFTs at PCP ___ to ensure resolution of mild 
transaminitis. 

> 30 mins spent coordinating discharge.
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# abdominal pain, resolved
# transaminitis, resolving

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege to care for you at the ___. You were 
transferred from ___ for further evaluation of your 
abdominal pain and abnormal liver labs. Fortunately, your pain 
has completely resolved and your labs are improving nicely. 
Therefore, no additional imaging is needed at this time. Also, 
you do NOT need your gallbladder removed at this time. 

It is now safe to be discharged home. We recommend obtaining a 
primary care doctor and having blood work checked in ___ weeks. 

We wish you the best! 

Sincerely,
Your ___ team 
 
Followup Instructions:
___